US08426408B2
1-(2-(dimethylamino)ethyl)-1H-pyrazol-4-amine
N,N-dimethyl-2-(4-nitro-1H-pyrazol-1-yl)ethanamine (1.19 g, 6.46 mmol)was dissolved in methanol (65 ml) and the flask was equipped with a hydrogenation stopcock apparatus. The flask was purged with N2 and 10% Pd/C (100 mg) was added. The flask was again purged with N2, then flushed with H2 and left overnight stirring under H2 (1 atm). The reaction was purged with N2 and filtered through Celite, rinsing with methanol. The filtrate was concentrated in vacuo to give a viscous oil, which was dissolved in dioxane and treated with excess 4N HCl-dioxane, whereupon a thick and somewhat gummy precipitate formed. The mixture was concentrated to dryness and dried under vacuum.

reactant | N,N-dimethyl-2-(4-nitro-1H-pyrazol-1-yl)ethanamine | 6.46 mmol, 1.19 g | CN(CCN1N=CC(=C1)[N+](=O)[O-])C | C7H12N4O2
reactant | HCl dioxane | 4N | Cl.O1CCOCC1
solvent | methanol | 65 ml | CO | CH4O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 1-(2-(dimethylamino)ethyl)-1H-pyrazol-4-amine | CN(CCN1N=CC(=C1)N)C | C7H14N4
